US06465513B1
Step A: Preparation of tert-Butyl (2S)-2-Amino-3-(4-hydroxycyclohex-1-yl)propionate
L-Tyrosine tert-butyl ester (0.6 g) was hydrogenated in MeOH, with 10% Rh/Al2O3 under 50 psi of hydrogen at room temperature for 2 days. The reaction mixture was filtered through Celite and the solvent evaporated under reduced pressure to afford the title intermediate as a foam.

reactant | L-Tyrosine tert-butyl ester | 0.6 g | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | CO | CH4O
catalyst | Rh/Al2O3 | [Rh] | Rh
product | tert-Butyl (2S)-2-Amino-3-(4-hydroxycyclohex-1-yl)propionate | N[C@H](C(=O)OC(C)(C)C)CC1CCC(CC1)O | C13H25NO3
